US06660744B1
2-Phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyrimidine (Intermediate AV)
A mixture of 5-bromo-2-phenoxy-pyrimidine (intermediate AU) (3.00 g, 0.0119 mol), diboron pinacol ester (3.64 g, 0.0143 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.29 g, 0.00036 mol) and potassium acetate (3.52 g, 0.0358 mol) in N,N-dimethylformamide (70 ml) was heated at 80° C. under a nitrogen atmosphere overnight. The mixture was allowed to cool to ambient temperature and then most of the solvent was removed under reduced pressure. Dichloromethane (70 ml) was added to the residue and the resulting solids were removed by filtration through a pad of celite. The filtrate was concentrated to leave dark oil. The residue was dissolved in dichloromethane (5 mL) and added to heptane (75 mL). The mixture was filtered, and the precipitate was slurried in heptane (75 mL) for 17 hours. After filtration and drying and dried in vacuo 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidine was obtained as a grey solid (2.95 g, 0.00989 mol): 1H NMR (DMSO-d6, 400 MHz) 8.75 (s, 2H), 7.45 (t, 2H), 7.27 (t, 1H), 7.20 (d, 2H), 1.31 (s, 12H)

reactant | 5-bromo-2-phenoxy-pyrimidine | 0.0119 mol, 3.00 g | BrC=1C=NC(=NC1)OC1=CC=CC=C1 | C10H7BrN2O
reactant | diboron pinacol ester | 0.0143 mol, 3.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.0358 mol, 3.52 g | C(C)(=O)[O-].[K+]
reactant | heptane | 75 mL | CCCCCCC | C7H16
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.00036 mol, 0.29 g | ClCCl | CH2Cl2
product | 2-Phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyrimidine | 0.00989 mol, 2.95 g | O(C1=CC=CC=C1)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C16H19BN2O3
